US07064201B2
To a cooled (0°) solution of 3-hydroxy-2,2-dimethyl-butyric acid methyl ester (52.0 g, 0.36 mol) in pyridine (100 ml) was added gradually, p-toluene sulfonyl chloride (69.0 g, 0.36 mol). The mixture was allowed to warm to room temperature and was stirred for 60 h. The reaction was again cooled in ice and was acidified by addition of HCl (2 M). The resultant solution was extracted with ethyl acetate, the extracts were washed with HCl, then brine, dried and evaporated to give an oil which formed a white precipitate upon standing. This mixture was dissolved in the minimum amount of ethyl acetate and then light petroleum was added to afford a white precipitate which was collected and washed with more light petroleum. The filtrate was partially evaporated and a second crop of crystals was collected and added to the first to afford 2,2-dimethyl-3-(toluene-4-sulfonyloxy)-butyric acid methyl ester (81.2 g, 76%).

reactant | 3-hydroxy-2,2-dimethyl-butyric acid methyl ester | 0.36 mol, 52.0 g | COC(C(C(C)O)(C)C)=O | C7H14O3
reactant | p-toluene sulfonyl chloride | 0.36 mol, 69.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 2 M | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-dimethyl-3-(toluene-4-sulfonyloxy)-butyric acid methyl ester | 81.2 g, 76% | COC(C(C(C)OS(=O)(=O)C1=CC=C(C=C1)C)(C)C)=O | C14H20O5S
